US05521179
2-[3-[4-(N-methylsulfonylcarbamoyl)benzyloxycarbonylamino]-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a solution of 2-[3-(4-carboxybenzyloxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.387 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.43 g) and 4-dimethylaminopyridine (0.27 g) in dry dichloromethane was added methanesulfonamide; and the reaction mixture was stirred for 5 days. The mixture was diluted with ethyl acetate, washed (three times with 10% aqueous hydrochloric acid, then brine), dried and evaporated before purification by chromatography, eluting with dichloromethane:ethyl acetate:methanol:acetic acid (50:48.9:1.0:0.1), to give the title compound; TLC: Rf =0.38, dichloromethane:ethyl acetate:methanol:acetic acid (50:48.9:1.0:0.1); HPLC: tR =5.38, FR=2, column A, water:acetonitrile (7:3); MS: m/z=651(M+1).

reactant | 2-[3-(4-carboxybenzyloxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.387 g | C(=O)(O)C1=CC=C(COC(=O)NC=2C(N(C(=CC2)C2=CC=CC=C2)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O)C=C1 | C28H26F3N3O7
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.43 g | Cl.CN(CCCN=C=NCC)C
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
catalyst | 4-dimethylaminopyridine | 0.27 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-[4-(N-methylsulfonylcarbamoyl)benzyloxycarbonylamino]-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | CS(=O)(=O)NC(=O)C1=CC=C(COC(=O)NC=2C(N(C(=CC2)C2=CC=CC=C2)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O)C=C1 | C29H29F3N4O8S
